US06211215B1
In substantially the same manner as in Working Example 131, 2-(4-hydroxyphenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole was allowed to react with piperonylchloride to give 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[4-(3,4-methylenedioxyphenylmethoxy)phenyl]oxazole. The yield was 43%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 124-125° C.

reactant | 2-(4-hydroxyphenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | OC1=CC=C(C=C1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C22H21N3O3
reactant | piperonylchloride | C(C1=CC=2OCOC2C=C1)Cl | C8H7ClO2
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[4-(3,4-methylenedioxyphenylmethoxy)phenyl]oxazole | yield was 43% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)C2=CC=C(C=C2)OCC2=CC3=C(C=C2)OCO3)C=C1 | C30H27N3O5
